US07576222B2
2-(4-BUT-2-YNYLOXY-BENZENESULFONYLAMINO)-3-(5-METHOXY-1H-INDOL-3-YL)-PROPIONIC Acid
The title compound was prepared by the method of Example 6, using 5-methoxy-DL-tryptophan and 4-but-2-ynyloxy-benzenesulfonyl chloride as starting materials. 1H NMR (DMSO-d6): 400 MHz δ 12.55 (bs, 1H), 10.63 (s, 1H), 8.06 (d, J=8.0 Hz, 1H), 7.53 (dd, J=8.0, 4.0 Hz, 2H), 7.18 (d, J=8.0 Hz, 1H), 7.02 (d, J=2.0 Hz, 1H), 6.92 (d, J=8.0 Hz, 2H), 6.82 (d, J=2.0 Hz, 1H), 6.68 (dd, J=8.0, 2.0 Hz, 1H), 4.78 (q, J=2.0 Hz, 2H), 3.87 (q, J=7.6 Hz, 1H), 3.72 (s, 3H), 3.00 (dd J=14.4, 6.4 Hz, 1H), 2.82 (dd J=14.4, 7.6 Hz, 1H), 1.83 (t, J=2.0 Hz, 3H); HRMS: calcd for C22H24N2O6S (ESI+, [M+H]1+), 443.1271; found 443.1265; LCMS m/z (ESI) [M+H] 443, retention time=2.50 min.

reactant | 5-methoxy-DL-tryptophan | COC1=CC=C2NC=C(CC(N)C(=O)O)C2=C1 | C12H14N2O3
reactant | 4-but-2-ynyloxy-benzenesulfonyl chloride | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H9ClO3S
product | 2-(4-BUT-2-YNYLOXY-BENZENESULFONYLAMINO)-3-(5-METHOXY-1H-INDOL-3-YL)-PROPIONIC Acid | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)CC1=CNC2=CC=C(C=C12)OC | C22H22N2O6S
